US07790882B2
1-(4-Chlorophthalazin-1-yl)-naphthalen-2-ol
To a solution of 1,4-dichlorophthalazine (9.96 g, 50 mmol) in dichloroethane (180 ml) was added 2-naphthol (7.24 g, 50 mmol) and aluminum chloride (7.38 g, 55 mmol) and the mixture was stirred at 80° C. for 17 hrs. The dark red solution was poured in ice water (600 ml) and the resulting brown suspension was stirred vigorously for 1 hr. The solid was collected by filtration, washed with diethyl ether and dried to give 11.8 g of the title compound as a beige solid. (Yield: 77%)

reactant | 1,4-dichlorophthalazine | 50 mmol, 9.96 g | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
reactant | 2-naphthol | 50 mmol, 7.24 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | aluminum chloride | 55 mmol, 7.38 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | 180 ml | ClC(C)Cl | C2H4Cl2
product | 1-(4-Chlorophthalazin-1-yl)-naphthalen-2-ol | 11.8 g, Yield: 77% | ClC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=CC=C12)O | C18H11ClN2O
